*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : GA3092
* Inductance = 0.9uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1GHz-6GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt GA3092_freq port1 port2 PARAMS: Cpar=0.152pF Ind=0.00
X1 port1 port2 Model3A PARAMS:
+ R1=0.001
+ R2=0.027
+ C= {Cpar}
+ K1=0.000001
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=84
+ L_EL=31.9
+ L_F0=2250E6
+ PkZ=0
.ends GA3092_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : GA3093
* Inductance = 9uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1GHz-6GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt GA3093_freq port1 port2 PARAMS: Cpar=0.188pF Ind=0.00
X1 port1 port2 Model3A PARAMS:
+ R1=0.001
+ R2=0.06
+ C= {Cpar}
+ K1=0.000001
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=120
+ L_EL=32.4
+ L_F0=1670E6
+ PkZ=0
.ends GA3093_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : GA3094
* Inductance = 90uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1GHz-2.5GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt GA3094_freq port1 port2 PARAMS: Cpar=0.44pF Ind=0.00
X1 port1 port2 Model3A PARAMS:
+ R1=0.002
+ R2=0.109
+ C= {Cpar}
+ K1=0.000001
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=142
+ L_EL=49.75
+ L_F0=1642E6
+ PkZ=0
.ends GA3094_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : GA3095
* Inductance = 900uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1GHz-2.2GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt GA3095_freq port1 port2 PARAMS: Cpar=0.478pF Ind=0.00
X1 port1 port2 Model3A PARAMS:
+ R1=3.374
+ R2=0.147
+ C= {Cpar}
+ K1=0.000001
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=153
+ L_EL=68
+ L_F0=1623E6
+ PkZ=0
.ends GA3095_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Aircore Inductor Model w/Rvar
*======================================================================
* Model Parameters:
*   Valid Frequency Range Varies by Inductor
*   Ambient Temperature = 25 degC
*   DC Bias Current = 0 A
*   Frequency Dependent Inductor Model
*======================================================================
.subckt Model3A Lin Lout PARAMS:
+ R1=1
+ R2=1
+ C=1
+ K1=1
+ L_Z0=1
+ L_EL=1
+ L_F0=1
G_Rvar1 Lin n001 LAPLACE { V(Lin, n001) } {1/(1e-6+({K1}*((s^2)/(-4*pi^2))^0.25))}
C1 N002 N001 {C}
R1 Lout N002 {R1}
T1 N001 0 N003 0 TD={(L_EL/360)/L_F0} Z0={L_Z0}
R2 Lout N003 {R2}
.ends Model3A






.subckt Coilcraft_Inductor Lin Lout
R1 Lout Lin 100Meg
.ends Coilcraft_Inductor
